US07470664B2
Carbonyldiimidazole (0.176 g, 1.086 mmol) was added to a stirred, room temperature solution of DMF (5 mL) and N-Boc-trans-4-hydroxy-L-proline methyl ester (0.21 g, 0.87 mmol) and the mixture was stirred 45 min. 8-Hydroxy-1,2,3,4-tetrahydroisoquinoline (0.20 g, 0.87 mmol) and Et3N (0.18 g, 1.74 mmol) were added and the resulting solution was heated at 50° C. for 2 h. The reaction mixture was poured into aqueous saturated NH4Cl and extracted with EtOAc, dried over Na2SO4 and concentrated to an oil. The residue was purified by column chromatography on silica gel (gradient elution, 10 to 80% EtOAc in hexanes) to give 1-tert-butyl 2-methyl (2S,4R)-4-{[(8-hydroxy-3,4-dihydroisoquinolin-2(1H)-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate (0.25 g, 0.60 mmol, 69% yield) as a colorless foam after evaporation of solvent. LRMS (ESI) m/z 321.3 [((M-Boc)+H)+; calcd for C16H21N2O5: 321.4].

reactant | Carbonyldiimidazole | 1.086 mmol, 0.176 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-Boc-trans-4-hydroxy-L-proline methyl ester | 0.87 mmol, 0.21 g | COC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
reactant | 8-Hydroxy-1,2,3,4-tetrahydroisoquinoline | 0.87 mmol, 0.20 g | OC=1C=CC=C2CCNCC12 | C9H11NO
reactant | Et3N | 1.74 mmol, 0.18 g | CCN(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-tert-butyl 2-methyl (2S,4R)-4-{[(8-hydroxy-3,4-dihydroisoquinolin-2(1H)-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate | 0.60 mmol, 0.25 g, 69% yield | OC=1C=CC=C2CCN(CC12)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C21H28N2O7
